US06489487B1
To a solution of 9.82 g (50 mmol) of 3-acetylbiphenyl in 80 ml of dry methanol and 80 ml of dry tetrahydrofuran was added 3.36 g (80 mmol) of sodium borohydride portionwise with ice-cooling, and the mixture was stirred for 1 hour. To the reaction solution was added 600 ml of an about 5% aqueous solution of ammonium chloride and the mixture was extracted with tert-butyl methyl ether. The organic layer was dried and concentrated to obtain 9.86 g (49.7 mmol) of 3-(1-hydroxyethyl)biphenyl as an oil.

reactant | 3-acetylbiphenyl | 50 mmol, 9.82 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=CC=C1 | C14H12O
reactant | sodium borohydride | 80 mmol, 3.36 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 80 ml | CO | CH4O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-(1-hydroxyethyl)biphenyl | 49.7 mmol, 9.86 g | OC(C)C=1C=C(C=CC1)C1=CC=CC=C1 | C14H14O
